US07754737B2
To a solution of (2-(trimethylsilyl)ethyl 3-(1-hydroxycyclohexyl)-2-aminopropylmethylcarbamate (18.3 mg, 0.055 mmol) in CH2Cl2 (2 mL) were added Et3N (0.2 mL) and Me3SiCl (12 mg, 14 μL, 0.11 mmol). The resulting solution was stirred for 1 h and evaporated under vacuum. The residue was dissolved in CH2Cl2 (2 mL), then pyridine (0.05 mL) was added, followed by 4-nitrophenyl chloroformate (13.5 mg, 0.66 mmol). The mixture was stirred for 30 min and (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol hydrochloride (19 mg, 0.055 mmol) was added. The mixture was stirred for 10 min and evaporated. The residue was purified by prep HPLC to give (3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide (20 mg, 54%). MS m/z 668 (M+H+).

reactant | 2-(trimethylsilyl)ethyl 3-(1-hydroxycyclohexyl)-2-aminopropylmethylcarbamate | 0.055 mmol, 18.3 mg | OC1(CCCCC1)CC(CN(C(OCC[Si](C)(C)C)=O)C)N | C16H34N2O3Si
reactant | Me3SiCl | 0.11 mmol, 14 μL, 12 mg | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | 4-nitrophenyl chloroformate | 0.66 mmol, 13.5 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | (S)-1-(3-chlorophenyl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol hydrochloride | 0.055 mmol, 19 mg | Cl.ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CNCCC1
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 0.2 mL | CCN(CC)CC | C6H15N
product | (3R)-3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)piperidine-1-carboxamide | 20 mg, 54% | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)NC(CN(C(=O)OCC[Si](C)(C)C)C)CC1(CCCCC1)O | C34H58ClN3O6Si
